US07368453B2
1,1-dimethylethyl[1-((Z)-({3-[2-(4-fluorophenyl)ethyl]-4-oxo-3,4-dihydro-7-quinazolinyl}amino){[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]imino}methyl)-3-azetidinyl]carbamate (synthesized using 1,1-dimethylethyl 3-azetidinylcarbamate by the methods described previously) was treated with 4.0 N HCl/dioxane (4 mL) and stirred overnight. The reaction was then purified by preparatory HPLC to provide 3-amino-N-{3-[2-(4-fluorophenyl)ethyl]-4-oxo-3,4-dihydro-7-quinazolinyl}-N′-[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]-1-azetidinecarboximidamide as a white solid. LC/MS: M+H 517.20 at 2.19 minutes, Method D.

reactant | 1,1-dimethylethyl[1-((Z)-({3-[2-(4-fluorophenyl)ethyl]-4-oxo-3,4-dihydro-7-quinazolinyl}amino){[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]imino}methyl)-3-azetidinyl]carbamate | CC(C)(C)N(C([O-])=O)C1CN(C1)\C(=N/[C@@H]1[C@H]([C@H]2C([C@@H](C1)C2)(C)C)C)\NC2=CC=C1C(N(C=NC1=C2)CCC2=CC=C(C=C2)F)=O
reactant | 1,1-dimethylethyl 3-azetidinylcarbamate | N1CC(C1)NC(OC(C)(C)C)=O | C8H16N2O2
reactant | HCl dioxane | 4.0 N, 4 mL | Cl.O1CCOCC1
product | 3-amino-N-{3-[2-(4-fluorophenyl)ethyl]-4-oxo-3,4-dihydro-7-quinazolinyl}-N′-[(1S,2S,3S,5R)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]-1-azetidinecarboximidamide | NC1CN(C1)C(NC1=CC=C2C(N(C=NC2=C1)CCC1=CC=C(C=C1)F)=O)=N[C@@H]1[C@H]([C@H]2C([C@@H](C1)C2)(C)C)C | C30H37FN6O
